US09353061B2
Synthesis of Rosuva-HA ((3R,5S,6E)-7-[4-(4-fluorophenyl)-2-(N-methylmethanesulfonamido)-6-isopropyl pyrimidin-5-yl]-3,5-dihydroxy-N-hydroxy-6-heptenamide)
By a procedure similar to Lova-HA, rosuvastatin (68 mg, 0.15 mmol, in the lactone form) was treated with MgBr2 (54 mg, 0.29 mmol), hydroxylamine hydrochloride (87 mg, 1.25 mmol), and sodium bicarbonate (99 mg, 1.18 mmol) in anhydrous THF/MeOH (7:3, 647 L) at ambient temperature for 6 h to give Rosuva-HA (37 mg, 51%). The purity was 97% as shown by HPLC analysis on an HC—C18 column (Agilent, 4.6×250 mm, 5 am), tR=13.8 min (gradients of 25-80% aqueous CH3CN in 30 min). C22H29FN4O6S; colorless oil; [α]24D=−1.1 (EtOAc, c=1.0); TLC (CH2Cl2/McOH (9:1)) Rf=0.35; IR νmax (neat) 3326, 2925, 2853, 1737, 1660, 1604, 1546, 1510, 1437, 1381, 1336, 1230, 1153, 1069, 965, 901, 845, 776 cm1; 1H NMR (DMSO-d6, 400 MHz) δ 10.32 (1H, br s), 8.70 (1H, br s), 7.71-7.74 (2H, m), 7.30 (2H, t, J=8.8 Hz), 6.50 (1H, dd, J=1.2, 16.2 Hz), 5.54 (1H, dd, J=5.6, 16.2 Hz), 4.94 (1H, d, J=4.4 Hz), 4.70 (1H, d, J=4.8 Hz), 4.19-4.22 (1H, m), 3.88 (1H, br s), 3.55 (3H, s), 3.41-3.48 (4H, m), 2.05 (2H, d, J=6.4 Hz), 1.48-1.56 (1H, m), 1.37-1.43 (1H, m), 1.22 (6H, d, J=6.8 Hz) ppm; 13C NMR (DMSO-d6, 100 MHz) δ 174.8, 167.9, 164.3, 163.3, 161.8, 157.3, 141.7, 134.9, 134.8, 132.6, 132.5, 122.2, 121.9, 115.6, 115.4, 69.1, 65.6, 44.6, 42.0, 41.2, 33.7, 31.7, 22.0 (2×) ppm; ESI-HRMS (negative mode) calcd. for C33H35FN3O5: 572.2561. found: m/z 572.2562 [M−H]−.

reactant | rosuvastatin | CC(C)C1=C(C(=NC(=N1)N(C)S(=O)(=O)C)C=2C=CC(=CC2)F)/C=C/[C@H](C[C@H](CC(=O)O)O)O | C22H28FN3O6S
reactant | MgBr2 | 0.29 mmol, 54 mg | [Mg+2].[Br-].[Br-]
reactant | hydroxylamine hydrochloride | 1.25 mmol, 87 mg | Cl.NO
reactant | sodium bicarbonate | 1.18 mmol, 99 mg | C([O-])(O)=O.[Na+]
solvent | THF MeOH | 647 L | C1CCOC1.CO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | CC#N | C2H3N
product | (3R,5S,6E)-7-[4-(4-fluorophenyl)-2-(N-methylmethanesulfonamido)-6-isopropyl pyrimidin-5-yl]-3,5-dihydroxy-N-hydroxy-6-heptenamide | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)NO)O)O)C(C)C)N(S(=O)(=O)C)C | C22H29FN4O6S
